US04435425
To a solution of 5-fluoro-4-amino-pentanoic acid (6.75 g, 50 mmoles) in conc. sulfuric acid (49 g, 0.5 moles) is added a solution of hydrazoic acid in chloroform (1.14 N, 44 mL) at 40° C. with vigorous stirring. Heating and stirring are continued until the end of carbon dioxide evolution (6 hours). The reaction mixture is poured into water (500 mL), heated to boiling and the sulfate is precipitated with barium chloride (105 g in 400 mL of water). After cooling to room temperature, barium sulfate is removed by filtration (celite) and the excess barium ions are precipitated by dropwise addition of 2 N sulfuric acid until no further precipitation occurs. After filtration (celite), evaporation gives a solid residue which is recrystallized from methanol/acetone to give 1-fluoro-2,4-diaminobutane dihydrochloride (2HCl, 4.7 g, 53%) as white, slightly hygroscopic crystals, Mp 135° C.

reactant | 5-fluoro-4-amino-pentanoic acid | 50 mmoles, 6.75 g | FCC(CCC(=O)O)N | C5H10FNO2
reactant | sulfuric acid | 0.5 moles, 49 g | S(O)(O)(=O)=O | H2O4S
reactant | hydrazoic acid | N=[N+]=[N-] | HN3
reactant | carbon dioxide | C(=O)=O | CO2
reactant | chloroform | 1.14 N, 44 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | 500 mL | O | H2O
product | 1-fluoro-2,4-diaminobutane dihydrochloride | 4.7 g, 53% | Cl.Cl.FCC(CCN)N | InChI=1S/C4H11FN2.2ClH/c5-3-4(7)1-2-6;;/h4H,1-3,6-7H2;2*1H
